US07196090B2
1-Cyclopentyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(trans-4-hydroxy-cyclohexylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one was prepared as in Example 2 using 0.5 g (1.15 mmol) 1-cyclopentyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 0.389 g (3.45 mmol) trans-4-hydroxy-cyclohexylamine. The final product was purified by column chromatography (20:1 dichloromethane/ methanol). This gave 0.320 g (57%) of 1-cyclopentyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(trans-4-hydroxy-cyclohexylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one as a white solid: mp 108° C.–110° C.; MS (APCI) m/z 486.2, 487.2.

reactant | 1-cyclopentyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 1.15 mmol, 0.5 g | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)S(=O)C)C2=C(C(=CC(=C2)OC)OC)F)=O | C20H23FN4O4S
reactant | trans-4-hydroxy-cyclohexylamine | 3.45 mmol, 0.389 g | O[C@@H]1CC[C@H](CC1)N | C6H13NO
product | 1-Cyclopentyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(trans-4-hydroxy-cyclohexylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)N[C@@H]2CC[C@H](CC2)O)C2=C(C(=CC(=C2)OC)OC)F)=O | C25H32FN5O4
